US06525042B1
1-[4-Bromo-2-(tert-butoxycarbonyl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In dichloromethane (200 ml), 4-bromophthalic anhydride (1.96 g) and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride (3.00 g) were suspended under ice cooling. To the resulting suspension, diisopropylethylamine (3.76 ml) was added, followed by stirring for 20 minutes. To the reaction mixture, dilute hydrochloric acid and dichloromethane were added. The organic layer so separated was dried over anhydrous sodium sulfate. The solvent was concentrated so that the volume was reduced to 200 ml. To the concentrate, N,N′-diisopropyl-O-tert-butylisourea (2.6 g) was added under ice cooling and the resulting mixture was stirred at room temperature for 3 days. Dilute hydrochloric acid and dichloromethane were added to the reaction mixture. The organic layer so separated was dried over anhydrous sodium sulfate. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=3:1˜1:1), whereby the title compound (1.78 g, 35%) was obtained as a colorless solid.

reactant | 4-bromophthalic anhydride | 1.96 g | BrC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3BrO3
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | 3.00 g | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
reactant | diisopropylethylamine | 3.76 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | Cl | ClH
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-[4-Bromo-2-(tert-butoxycarbonyl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | BrC1=CC(=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=C1)C(=O)OC(C)(C)C | C26H26BrClN2O5S
